Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unstable thoracic fracture s/p fall
 
Major Surgical or Invasive Procedure:
T6-T11 posterior instrumentation fusion ___ with Dr. ___

 
___ of Present Illness:
___ with ___ transferred from OSH where 
evaluated s/p fall on ice overnight. No head strike or LOC. OSH 
imaging c/f unstable T8-9 fracture. Pt states he stepped outside 
at approximately 0300, slipped on ice, fell backwards and landed 
on his back. Able to get up and ambulate. Reports pain with 
movement. Denies numbness, tingling, paresthesias of 
extremities. No bowel or bladder retention or incontinence. No 
headache, blurry vision, double vision, CP, SOB, 
nausea/vomiting, abd pain, dysuria, rash, joint pain. CT 
Thoracic Spine w/o contrast Findings Vertebrae: multilevel 
confluent synostoses of the thoracic spine suggesting ankylosis. 
There is an acute thoracic spine fracture at the T8-9 level, 
which predominantly extends through the superior T9 vertebral 
body, although there is a small anterior inferior endplate 
fracture of T8. Fracture plane extends through the posterior 
elements bilaterally, with associated angulation and anterior 
widening at the T8-9 level compatible with unstable thoracic 
spine fracture. Adjacent increased soft tissue prominence and 
attenuation likely reflects associated paraspinal hematoma. 
Other bones: additional fracture extension through the posterior 
medial left 9th rib.
 
Past Medical History:
Ankylosing spondylitis
NIDDM
Hypothyroidism
 
Social History:
SH: Works as ___ Activity Level: 
Ambulatory at baseline
Mobility Devices: None Tobacco: Former smoker, 30 pack-year 
history. 
EtOH: denies Illicit drugs: denies
 
Physical Exam:
Admission Physical Exam:
PE:

Vitals: T 98.1 HR 88, BP 160/94, RR 16, SpO2 98% RA

General: No distress, alert
HEEENT: PERRL, EOMI, visual fields intact, no nystagmus, 
sensation intact V1-V3, VII intact symmetrically, equal 
elevation of palate, tongue midline
Neck/Back: no TTP midline, no step-offs
Resp: No tachypnea or respiratory distress, CTAB
CV: Regular rate, no m/r/g
MSK: no edema or deformity

Mental Status: Alert and oriented

Cranial nerves II-XII grossly intact.

Vascular

  Radial  Ulnar  Fem  Pop  DP  ___

R  2       2      2    ___

L  2       2      2    ___

Sensory:

UE  
 C5         C6       C7          C8          T1
(lat arm) (thumb) (mid fing) (sm finger) (med arm)

R intact  intact    intact      intact      intact

L intact  intact    intact      intact      intact

T2-L1 (Trunk) intact

___
 L2       L3      L4         L5        S1        S2

(Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)

R intact intact  intact    intact     intact     intact

L intact intact  intact    intact     intact     intact

Motor:

UE Dlt(C5)  Bic(C6)  WE(C6)  Tri(C7)  WF(C7)  FF(C8)  FinAbd(T1)

R    5       5         5       5       5         5        5

L    5       5         5       5       5         5        5

___ Flex(L1) Add(L2) Quad(L3) TA(L4) ___ Per(S1) ___

R   5        5        5        5       5        5       5

L   5        5        5        5       5        5       5

Reflexes

Bic(C4-5) BR(C5-6) Tri(C6-7) Pat(L3-4) Ach(L5-S1)

R    2       2           2         2          2

L    2       2           2         2          2

            

Straight Leg Raise Test: negative bilaterally

Babinski:  Downgoing

Clonus: None

Perianal sensation: Intact

Rectal tone: Intact

Estimated Level of Cooperation: Good

Estimated Reliability of Exam: Good

Discharge PHYSICAL EXAM:
 AVSS
 Well appearing, NAD, comfortable
 BUE: SILT C5-T1 dermatomal distributions
 BUE: ___ Del/Tri/Bic/WE/WF/FF/IO
 All fingers WWP, brisk capillary refill, 2+ distal pulses
 BLE: SILT L1-S1 dermatomal distributions
 BLE: ___ ___
 All toes WWP, brisk capillary refill, 2+ distal pulses
 
Pertinent Results:
___ 04:54AM BLOOD WBC-10.0 RBC-4.07* Hgb-10.9* Hct-33.7* 
MCV-83 MCH-26.8 MCHC-32.3 RDW-14.6 RDWSD-43.7 Plt ___
___ 09:05AM BLOOD WBC-13.4* RBC-5.05 Hgb-13.8 Hct-41.8 
MCV-83 MCH-27.3 MCHC-33.0 RDW-14.6 RDWSD-43.3 Plt ___
___ 09:05AM BLOOD Neuts-83.7* Lymphs-8.4* Monos-5.8 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-11.21* AbsLymp-1.12* AbsMono-0.78 
AbsEos-0.13 AbsBaso-0.05
___ 04:54AM BLOOD Plt ___
___ 11:33AM BLOOD ___ PTT-34.0 ___
___ 09:05AM BLOOD Plt ___
___ 04:54AM BLOOD Glucose-173* UreaN-9 Creat-0.9 Na-136 
K-3.7 Cl-103 HCO3-23 AnGap-14
___ 09:05AM BLOOD Glucose-158* UreaN-11 Creat-1.0 Na-136 
K-4.2 Cl-101 HCO3-21* AnGap-18
___ 04:54AM BLOOD Calcium-7.6* Phos-3.2 Mg-1.9
___ 09:05AM BLOOD Calcium-8.6 Phos-2.4* Mg-2.2
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.

=====================
TRANSITIONAL ISSUES
=====================
- Incidental note of nodular opacities in the right upper lobe, 
measuring up to 7 mm". Given his previous history of smoking, he 
would be high risk for malignancy, and should have follow up CT 
at ___ months
 
Medications on Admission:
Levothyroxine
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.Raised toilet seat with handles
Please provide patient with 1 raised toilet seat with handles. 
Diagnosis: thoracic vertebral fracture
Length of need: 13 months
Prognosis: Good
6.Wedge pillow
Please provide patient with 1 wedge pillow.
Diagnosis: thoracic vertebral fracture
Length of need: 13 months
Prognosis: Good
7.Shower chair
Please provide patient with 1 shower chair. 
Diagnosis: thoracic vertebral fracture
Length of need: 13 months
Prognosis: Good

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ankylosing spondylitis
unstable fracture T8/T9

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thoracic Decompression With Fusion:

You have undergone the following operation: Thoracic (T6-T11) 
Decompression With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace: You have been given a brace.This brace 
is to be worn when you are walking.You may take it off when 
sitting in a chair or while lying in bed.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline X-rays and answer any questions.We may at 
that time start physical therapy

                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

 

Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Cover it with a sterile dressing and call the office.
 
Followup Instructions:
___